US09428470B2
G) tert-Butyl 4-oxo-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridin-1(2H)-yl)butanoate
HATU (3.68 g) was added to a mixture of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (1.98 g), 4-tert-butoxy-4-oxobutanoic acid (1.686 g), N,N-diisopropylethylamine (3.38 mL), and DMF (20 mL) at 0 C, and the obtained mixture was stirred at room temperature for 3 days. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to obtain the title compound (1.84 g).

reactant | HATU | 3.68 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 1.98 g | Cl.CC1(OB(OC1(C)C)C=1CCNCC1)C
reactant | 4-tert-butoxy-4-oxobutanoic acid | 1.686 g | C(C)(C)(C)OC(CCC(=O)O)=O | C8H14O4
reactant | N,N-diisopropylethylamine | 3.38 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-oxo-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridin-1(2H)-yl)butanoate | 1.84 g | O=C(CCC(=O)OC(C)(C)C)N1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C19H32BNO5
